US04766125
A mixture of 14.8 parts of 1-[4,4-bis(4-fluorophenyl)butyl]-4-(phenylmethyl)-2-piperazinecarboxamide and 200 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (85:15 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2,2'-oxybispropane, yielding 7.9 parts (66.4%) of 1-[4,4-bis(4-fluorophenyl)butyl]-2-piperazinecarboxamide; m.p. 113.6° C. (intermediate 53).

reactant | 1-[4,4-bis(4-fluorophenyl)butyl]-4-(phenylmethyl)-2-piperazinecarboxamide | FC1=CC=C(C=C1)C(CCCN1C(CN(CC1)CC1=CC=CC=C1)C(=O)N)C1=CC=C(C=C1)F | C28H31F2N3O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1-[4,4-bis(4-fluorophenyl)butyl]-2-piperazinecarboxamide | 66.4% | FC1=CC=C(C=C1)C(CCCN1C(CNCC1)C(=O)N)C1=CC=C(C=C1)F | C21H25F2N3O
